US05006531
1'-Aminocarbonyl-5,6-dihydrospiro[1H-indolo-[3,2-c]quinoline-6,4'-piperidine]
To a solution of 4 g of 5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperidine] in 100 ml of THF were added 9.7 g of K2CO3 and 13.9 ml of trimethylsilyl isocyanate (32% xylene by weight). The mixture was stirred overnight at room temperature and filtered. Subsequently, an additional 5.6 ml of trimethylsilyl isocyanate was added and the resultant solution was stirred for 30 minutes at room temperature. Concentration gave a solid/gum mixture which was triturated with H2O to give 3.07 g of solid, m.p. 265°-267° dec.

reactant | 5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperidine] | 4 g | N1CCC2(CC1)NC1=CC=CCC1=C1C2=C2C=CC=CC2=N1 | C19H19N3
reactant | K2CO3 | 9.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trimethylsilyl isocyanate | 13.9 ml | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1'-Aminocarbonyl-5,6-dihydrospiro[1H-indolo-[3,2-c]quinoline-6,4'-piperidine] | 3.07 g | NC(=O)N1CCC2(CC1)NC1=CC=CCC1=C1C2=C2C=CC=CC2=N1 | C20H20N4O
